US07667041B2
Synthesis of (E)-N-indan-1-yl-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide
Lithium hydroxide monohydrate (9 mg) was added to a THF (2 mL) solution of 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde (21 mg) and indan-1-ylcarbamoylmethylphosphonic acid diethyl ester (30 mg) obtained above, and the reaction solution was agitated at room temperature overnight. After the reaction mixture was concentrated under reduced pressure, the residue was purified by silica gel column chromatography (Carrier: Chromatorex™ NH, elution solvent:hexane-ethyl acetate system), and 13 mg of the title compound was obtained.

reactant | Lithium hydroxide monohydrate | 9 mg | O.[OH-].[Li+]
reactant | 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | 21 mg | COC=1C=C(C=O)C=CC1N1C=NC(=C1)C | C12H12N2O2
reactant | indan-1-ylcarbamoylmethylphosphonic acid diethyl ester | 30 mg | C(C)OP(OCC)(=O)CC(NC1CCC2=CC=CC=C12)=O | C15H22NO4P
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (E)-N-indan-1-yl-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide | 13 mg | C1(CCC2=CC=CC=C12)NC(\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C23H23N3O2
